US04263291
Ethyl 2-methoxyimino-2-(1,2,5-thiadiazol-3-yl)acetate (anti isomer) (3.0 g.) was treated with 1 N aqueous solution of sodium hydroxide (16.8 ml.) according to a similar manner to that of Example 1(a)(5) to give 2-methoxyimino-2-(1,2,5-thiadiazol-3-yl)acetic acid (anti isomer) (2.46 g.), mp 110° to 111° C.

reactant | Ethyl 2-methoxyimino-2-(1,2,5-thiadiazol-3-yl)acetate | 3.0 g | CON=C(C(=O)OCC)C1=NSN=C1 | C7H9N3O3S
reactant | sodium hydroxide | 16.8 ml | [OH-].[Na+]
product | 2-methoxyimino-2-(1,2,5-thiadiazol-3-yl)acetic acid | 2.46 g | CON=C(C(=O)O)C1=NSN=C1 | C5H5N3O3S
